* ADTL082 SPICE Macro-model
* Typical Values
* 06/07, Version  1.0 
* ADSJ -- SS
*
* Copyright 2007 by Analog Devices
*
* Refer to "README.DOC" file for License Statement.  Use of this
* model indicates your acceptance of the terms and provisions in
* the License Statement.
*
* This model simulates typical value parameters
* at Vs=±13V
*
* Node Assignments
*                       noninverting input
*                       |   inverting input
*                       |   |    positive supply
*                       |   |    |   negative supply
*                       |   |    |   |   output
*                       |   |    |   |   |
*                       |   |    |   |   |
.SUBCKT ADTL082         1   2   99  50  30
*
* INPUT STAGE
*
R3   5  50  6.437E+03
R4   6  50  6.437E+03
CIN  1   2    5.5E-12
I1   99  4    9.321E-04
IOS  1   2    1.00E-12
EOS  60  1    POLY(2)  (17,24) (73,24)  2.00E-03  1 1 
EN   7  60 POLY(1) (81, 98) 0 1
J1   5   2    4   JX
J2   6   7    4   JX
GB1  2  50    POLY(3) (4,2) (5,2) (50,2) 0 1E-12 1E-12 1E-12
GB2  7  50    POLY(3) (4,7) (6,7) (50,7) 0 1E-12 1E-12 1E-12
*
EREFNEG 1000 0 24 0 -1
EREF 98 0 POLY(2) (99,0) (50,0) 0 .5 .5 
*
* VOLTAGE NOISE GENERATOR
*
VN1  80 98 0
RN1 80 98 17.1E-3
HN  81 98 VN1 1.6E1
RN2 81 98 1

* Flicker noise
*
*D10 69 98 DNOISE
*VSN 69 98 DC .6551
*H1 70 98 VSN 8.22E+01
*RN 70 98 1


** SECOND STAGE & POLE AT 1.3 kHZ
*
R5   9  98    1.48E+05
C3   9  98    39000E-12
G1   98  9    5  6  1.30E-01
V2   99  8    0.7
V3   10 1000    -10.2

D1   9   8    DX
D2   10  9    DX
*
* COMMON-MODE GAIN NETWORK
*
E3   16 98     POLY(2) (1,98)  (2,98)  0  2.623E-03   2.623E-03
R11  16 17     1.326E+06
R12  17 98     3.183E+03
C8   16 17     100E-12
*E3   16 98     POLY(2) (1,98)  (2,98)  0  1.0E-02 1.0E-02
*R11  16 17     3.27E+02
*R12  17 98     1.59E-1
*C8   16 17     50E-8
*
* PSRR NETWORK
*
EPSY 98 72 POLY(1) (99,50) 0 30.00E-02
CPS3 72 73 300E-12
RPS3 72 73 20.0E+05
RPS4 73 98 1.96E+02;  was 1.96E+02
*
* POLE AT 15 MHZ
*
R13  18 98     1E3
C9   18 98   1.48E-11
G5   98 18     9  24  1E-3
*

*
* OUTPUT STAGE
*
R14  24 99     500E3
R15  24 50     500E3
CF   24  0     1E-6
GSY  99 50     POLY(1) 99 50 .0002 1.0E-6
R16  29 99     8.00E+01
R17  29 50     8.00E+01
L1   29 30     1E-8
G6   27 50     18 29  1.25E-02
G7   28 50     29 18  1.25E-02
G8   29 99     99 18  1.25E-02
G9   50 29     18 50  1.25E-02
V4   25 29     0.675
V5   29 26     0.675
D3   18 25     DX
D4   26 18     DX
D5   99 27     DX
D6   99 28     DX
D7   50 27     DY
D8   50 28     DY
F1   29  0     V4  1
F2   0  29     V5  1
*
* MODELS USED
*
.MODEL JX PJF(BETA=1.4E-3  VTO=-1.000  IS=20E-12 RD=0
+ RS=0 CGD=1E-12 CGS=1E-12)
.MODEL DX   D(IS=1E-12 RS=0 CJO=1E-12)
.MODEL DY   D(IS=1E-12 BV=50 RS=10 CJO=1E-12)
.MODEL DEN  D(IS=1E-12 RS=200 KF=2.651E-15 AF=6.8E-14)
.MODEL DIN  D(IS=1E-12 RS=12090 KF=0 AF=1)
.MODEL DNOISE D(IS=1E-14,RS=0,KF=1.6E-16)
*
*
.ENDS ADTL082




